US09376442B2
N-[cis-4-(Acetylamino)cyclohexyl]-4-[2-(cyclopropylmethoxy)-5-(propan-2-yl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from N-(cis-4-aminocyclohexyl)-4-[2-(cyclopropylmethoxy)-5-(propan-2-yl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f54) and commercially available acetyl chloride the title compound is obtained as colorless solid.

reactant | N-(cis-4-aminocyclohexyl)-4-[2-(cyclopropylmethoxy)-5-(propan-2-yl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.N[C@H]1CC[C@H](CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)C(C)C)OCC2CC2)C
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-[cis-4-(Acetylamino)cyclohexyl]-4-[2-(cyclopropylmethoxy)-5-(propan-2-yl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C(C)(=O)N[C@H]1CC[C@H](CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)C(C)C)OCC2CC2)C | C29H37N5O3
